US07977491B2
Synthesis [1-6]: Synthesis of 2-(4-(2,2-bis(4-(6-(4-(cyanophenyl)phenoxy)hexyloxy)phenylthio)ethoxy)phenylthio)-1-methylpyridinium iodide
Into 20 mL of chloroform was dissolved 10 g of 2-(4-(2,2-bis(4-(6-(4-(cyanophenyl)phenoxy)hexyloxy)phenylthio)ethoxy)phenylthio)pyridine, and then 10 mL of methyl iodide was added thereto. The resultant solution was then heated under reflux. After the completion of the reaction, the solvent and an excess amount of methyl iodide were removed by distillation under reduced pressure. The residue was dissolved in chloroform, and purified by silica gel column chromatography (yielded amount 7.5 g, and yield 65.9%).

reactant | 2-(4-(2,2-bis(4-(6-(4-(cyanophenyl)phenoxy)hexyloxy)phenylthio)ethoxy)phenylthio)pyridine | 10 g | C(#N)C1=C(C=CC=C1)C1=CC=C(OCCCCCCOC2=CC=C(C=C2)SC(COC2=CC=C(C=C2)SC2=NC=CC=C2)SC2=CC=C(C=C2)OCCCCCCOC2=CC=C(C=C2)C2=C(C=CC=C2)C#N)C=C1 | C63H59N3O5S3
reactant | methyl iodide | 10 mL | CI | CH3I
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-(2,2-bis(4-(6-(4-(cyanophenyl)phenoxy)hexyloxy)phenylthio)ethoxy)phenylthio)-1-methylpyridinium iodide | yield 65.9% | [I-].C(#N)C1=C(C=CC=C1)C1=CC=C(OCCCCCCOC2=CC=C(C=C2)SC(COC2=CC=C(C=C2)SC2=[N+](C=CC=C2)C)SC2=CC=C(C=C2)OCCCCCCOC2=CC=C(C=C2)C2=C(C=CC=C2)C#N)C=C1 | InChI=1S/C64H62N3O5S3.HI/c1-67-41-11-10-20-63(67)73-58-35-33-57(34-36-58)72-48-64(74-59-37-29-55(30-38-59)70-44-14-4-2-12-42-68-53-25-21-49(22-26-53)61-18-8-6-16-51(61)46-65)75-60-39-31-56(32-40-60)71-45-15-5-3-13-43-69-54-27-23-50(24-28-54)62-19-9-7-17-52(62)47-66;/h6-11,16-41,64H,2-5,12-15,42-45,48H2,1H3;1H/q+1;/p-1
